US07750145B2
To a suspension of 4-bromo-3-fluorophenol (2.87 g) and cesium carbonate (12.2 g) in N,N-dimethylformamide (30 mL) was added methyliodide (1.87 mL) at room temperature, and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 1-bromo-2-fluoro-4-methoxybenzene (3.02 g).

reactant | 4-bromo-3-fluorophenol | 2.87 g | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | cesium carbonate | 12.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyliodide | 1.87 mL | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-bromo-2-fluoro-4-methoxybenzene | 3.02 g | BrC1=C(C=C(C=C1)OC)F | C7H6BrFO
